US06465507B2
1-[5-(2,3-Dihydro-indole-1-sulfonyl)-2-oxo-1,2-dihydro-indol-3ylidenemethyl]-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one
5-(2,3-Dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 5-(2,3-Dihydro-indole-1-sulfonyl)-1,3-dihydro-indol-2-one | N1(CCC2=CC=CC=C12)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C16H14N2O3S
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 1-[5-(2,3-Dihydro-indole-1-sulfonyl)-2-oxo-1,2-dihydro-indol-3ylidenemethyl]-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | N1(CCC2=CC=CC=C12)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC1=C2C(=CN1)C(OCC2)=O | C24H19N3O5S
